US09260441B2
Step B: (1S,4S)-5-(2-Methyl-3-pyridyl)-2,5-diazabicyclo[2.2.1]heptane hydrochloride
tert-Butyl (1S,4S)-5-(2-methyl-3-pyridyl)-2,5-diazabicyclo[2.2.1]heptane-2-carboxylate (230 mg, 0.8 mmol) was dissolved in a mixture of DCM (5 ml) and trifluoroacetic acid (5 ml) and stirred at room temperature overnight. The mixture was concentrated under reduced pressure, the residue was dissolved in DCM and evaporated again. The last step was repeated, the residue was dissolved in THF (10 ml) and hydrochloric acid was added (4N in dioxane, 4 ml). The precipitate was isolated by centrifugation and decantation, washed with THF (2×) and dried under reduced pressure to yield 170 mg of a brown solid (0.75 mmol, yield 94%) MS (ESI) m/z=190.1 [M+1]+.

reactant | tert-Butyl (1S,4S)-5-(2-methyl-3-pyridyl)-2,5-diazabicyclo[2.2.1]heptane-2-carboxylate | 0.8 mmol, 230 mg | CC1=NC=CC=C1N1[C@@H]2CN([C@H](C1)C2)C(=O)OC(C)(C)C | C16H23N3O2
reactant | DCM | 5 ml | C(Cl)Cl | CH2Cl2
solvent | trifluoroacetic acid | 5 ml | FC(C(=O)O)(F)F | C2HF3O2
product | (1S,4S)-5-(2-Methyl-3-pyridyl)-2,5-diazabicyclo[2.2.1]heptane hydrochloride | 0.75 mmol, 170 mg, yield 94% | Cl.CC1=NC=CC=C1N1[C@@H]2CN[C@H](C1)C2 | InChI=1S/C11H15N3.ClH/c1-8-11(3-2-4-12-8)14-7-9-5-10(14)6-13-9;/h2-4,9-10,13H,5-7H2,1H3;1H/t9-,10-;/m0./s1
